* C:\Users\ASUS\Documents\LTspiceXVII\examples\Educational\Draft2.asc
M1 Output N002 N001 N001 IRFL9110
R2 Output switch 100k
R3 source N002 100k
Q1 Gate switch 0 0 2N2222
R4 source N006 100k
S1 switch N006 control 0 Test
Q2 N006 N007 0 0 2N2222
R5 Output N007 200k
V1 source 0 PWL(0 0 .1 6)
V2 control 0 PULSE(0 5 .2 0.001 0.001 0.04 0.5)
C1 N007 0 20µ
R7 Output 0 10k
R1 N002 Gate 1
R6 N001 source 1
R8 Output N003 1k
D1 N003 0 D
M2 Output2 drain source2 source2 IRFL9110
R9 Output2 switch2 100k
R10 source2 drain 100k
R11 source2 N008 100k
S2 switch2 N008 control2 0 Test
R12 Output2 charge 50k
V3 source2 0 PWL(0 0 .1 6)
V4 control2 0 PULSE(0 5 .2 0.001 0.001 0.04 0.5)
C2 charge 0 10µ
R16 Output2 N004 10k
D2 N004 0 D
M3 drain switch2 0 0 BS170
M4 N008 charge 0 0 BS170
R17 switch2 0 100k
M5 charge N005 P001 P001 BS170
R18 P001 0 500
R13 N005 0 100k
R19 N005 drain 100k
I1 Output2 0 {load} load
.model D D
.lib C:\Users\ASUS\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASUS\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ASUS\Documents\LTspiceXVII\lib\cmp\standard.mos
.model Test SW(Vt=2.5, Vh=-.4)
.tran 2
.param load 0
.step param load 0 1000m 100m
.backanno
.end
